US05731315
A. Benzo[b]thiophene-2-sulfonic acid [1-(4-amino-3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]amide
The title compound (0.131 g, 0.307 mmol) is prepared as in EXAMPLE 1, Part E from 4-amino-3-(3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)benzonitrile dihydrochloride (0.135 g, 0.445 mmol) and benzo[b]thiophene-2-sulfonyl chloride (0.114 g, 0.49 mmol) in acetonitrile.

reactant | 4-amino-3-(3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)benzonitrile dihydrochloride | 0.445 mmol, 0.135 g | Cl.Cl.NC1=C(C=C(C#N)C=C1)CN1C([C@H](CC1)N)=O
reactant | benzo[b]thiophene-2-sulfonyl chloride | 0.49 mmol, 0.114 g | S1C2=C(C=C1S(=O)(=O)Cl)C=CC=C2 | C8H5ClO2S2
reactant | acetonitrile | C(C)#N | C2H3N
product | Benzo[b]thiophene-2-sulfonic acid [1-(4-amino-3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]amide | 0.307 mmol, 0.131 g | NC1=C(C=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC3=C(S2)C=CC=C3)=O)C=C1)C#N | C20H18N4O3S2
